US04648996
2-Hydroxybenzyl alcohol was treated with triphenylphosphine hydrobromide in acetonitrile as described in Example 1 to yield [(2-Hydroxyphenyl)methyl]triphenylphosphonium bromide.

reactant | 2-Hydroxybenzyl alcohol | OC1=C(CO)C=CC=C1 | C7H8O2
reactant | triphenylphosphine hydrobromide | Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | [(2-Hydroxyphenyl)methyl]triphenylphosphonium bromide | [Br-].OC1=C(C=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C25H21OP.BrH/c26-25-19-11-10-12-21(25)20-27(22-13-4-1-5-14-22,23-15-6-2-7-16-23)24-17-8-3-9-18-24;/h1-19H,20H2;1H
